US05446042
1-[(4-Methoxyphenyl)carbonylmethyl]-4-(4,5-dihydro-1,2,4-triazin-6(1H)-one-3-yl)pyridinium bromide (Intermediate 56)
4,5-Dihydro-3-(4-pyridyl)-1,2,4-triazin-6(1H)-one (176 mg, 1 mmol) and 4'-methoxyphenacyl bromide (252 mg, 1.1 mmol) were dissolved in absolute ethanol (5 ml), refluxed for two hours and then stirred at room temperature for one day. The resulting precipitate was collected by filtration and washed with absolute ethanol to obtain the titled compound (374 mg) as yellow-brown powder.

reactant | 4,5-Dihydro-3-(4-pyridyl)-1,2,4-triazin-6(1H)-one | 1 mmol, 176 mg | N1=CC=C(C=C1)C1=NNC(CN1)=O | C8H8N4O
reactant | 4'-methoxyphenacyl bromide | 1.1 mmol, 252 mg | COC1=CC=C(C=C1)C(=O)CBr | C9H9BrO2
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-[(4-Methoxyphenyl)carbonylmethyl]-4-(4,5-dihydro-1,2,4-triazin-6(1H)-one-3-yl)pyridinium bromide | 374 mg, Yield: 92% | [Br-].COC1=CC=C(C=C1)C(=O)C[N+]1=CC=C(C=C1)C1=NNC(CN1)=O | InChI=1S/C17H16N4O3.BrH/c1-24-14-4-2-12(3-5-14)15(22)11-21-8-6-13(7-9-21)17-18-10-16(23)19-20-17;/h2-9,18H,10-11H2,1H3;1H
